US05922732
Potassium t-butoxide (2.5 g) was added portionwise to a stirred mixture of 8-benzyl-8-azabicyclo[3.2.1]octan-3-one (2.0 g), tosylmethyl isocyanide (2.36 g) and ethanol (2 ml) in dimethoxyethane (50 ml) at 0° C. under nitrogen. The mixture was stirred at 0° C. for 0.5 hours and then overnight at room ternperature. The mixture was then filtered and the solid residue washed with dimethoxyethane. The combined filtrates were evaporated under reduced pressure and chromatographed [SiO2 ; hexane:ethyl acetate (80:20)] to give 3-cyano-8-benzyl-8-azabicyclo[3.2.1]octane (0.87 g).

reactant | Potassium t-butoxide | 2.5 g | CC(C)([O-])C.[K+]
reactant | 8-benzyl-8-azabicyclo[3.2.1]octan-3-one | 2.0 g | C(C1=CC=CC=C1)N1C2CC(CC1CC2)=O | C14H17NO
reactant | tosylmethyl isocyanide | 2.36 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | dimethoxyethane | 50 ml | C(OC)COC | C4H10O2
product | 3-cyano-8-benzyl-8-azabicyclo[3.2.1]octane | 0.87 g | C(#N)C1CC2CCC(C1)N2CC2=CC=CC=C2 | C15H18N2
